US03954754
EXAMPLE 22: 6-(p-Bromobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
10.2 g of 6-(p-bromobenzoyl)-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 55 cc of hydrazine hydrate are stirred at a bath temperature of 100° for 2 hours. The title compound has a M.P. of 192°-195° (decomp., from absolute ethanol/methanol 3:1).

reactant | 6-(p-bromobenzoyl)-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 10.2 g | BrC1=CC=C(C(=O)N2CC3=C(N=NC(=C3)Cl)CC2)C=C1 | C14H11BrClN3O
reactant | hydrazine hydrate | 55 cc | O.NN
product | 6-(p-Bromobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | BrC1=CC=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=C1 | C14H14BrN5O
